US09315463B2
methyl 4-amino-5-iodo-2-methoxybenzoate
To a solution of methyl 4-amino-2-methoxybenzoate (13 g, 0.07 mol) in acetic acid (300 mL) was added dropwise a solution of iodine monochloride (11.5 g, 0.07 mol) in acetic acid (50 mL). The mixture was stirred for 1.5 hours at room temperature. The precipitate was filtered and washed with ether. Then was dissolved with bicarbonate 4% and extracted with ethyl acetate. The organic layer was washed with brine, dried and the solvent was removed under reduced pressure giving the title compound as a white solid (88%), which was used in the next step without further purification.

reactant | methyl 4-amino-2-methoxybenzoate | 0.07 mol, 13 g | NC1=CC(=C(C(=O)OC)C=C1)OC | C9H11NO3
reactant | iodine monochloride | 0.07 mol, 11.5 g | ICl | ClI
solvent | acetic acid | 300 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | methyl 4-amino-5-iodo-2-methoxybenzoate | 88% | NC1=CC(=C(C(=O)OC)C=C1I)OC | C9H10INO3
